US06326369B1
4-[4-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)butoxy]phenylmethanol
A water (1.0 ml) solution of CAN (1.24 g, 2.27 mmols) was dropwise added to an acetonitrile (8.0 ml) solution of 4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]phenylmethanol (370 mg, 0.888 mmols), with cooling with ice, and stirring was continued for 15 minutes. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=10:1 to 2:1) followed by recrystallization (from hexane-ethyl acetate) to obtain the entitled compound (150 mg) as crystals.

reactant | CAN | 2.27 mmols, 1.24 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 8.0 ml | C(C)#N | C2H3N
reactant | 4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]phenylmethanol | 0.888 mmols, 370 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCOC1=CC=C(C=C1)CO | C24H32O6
solvent | Water | O | H2O
solvent | water | 1.0 ml | O | H2O
product | 4-[4-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)butoxy]phenylmethanol | 150 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCCOC1=CC=C(C=C1)CO)=O | C22H26O6
